US07851469B2
N-Cyclopropyl-4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide
As described for Example 10, 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester (70 mg, 0.17 mmol) was converted, using cyclopropylamine instead of cyclopropanemethylamine, to the title compound (20 mg, 27%) which was obtained as a white solid. MS: m/e=439.2 [M+H]+.

reactant | 4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 0.17 mmol, 70 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H14F3N3O3
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-Cyclopropyl-4-[4-(3-phenyl-5-trifluoromethyl-isoxazol-4-yl)-imidazol-1-yl]-benzamide | 20 mg, 27% | C1(CC1)NC(C1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C23H17F3N4O2
